US03970754
Piperidine (2.56 g, 0.03 mole) is added to 1,2-dimethyl-3-chloro-5-phenylpyrazolium methyl sulfate (4.77 g, 0.015 mole) in absolute ethanol (30 ml) and the mixture stirred with a bar magnet and heated under reflux for 4 hours. After cooling, the reaction mixture is evaporated under reduced pressure to a brown oil, and then dissolved in 50 ml of aqueous saturated sodium bicarbonate solution. The aqueous layer is extracted with ether and this organic layer discarded, then with chloroform (3×100 ml). Evaporation of the chloroform layer affords 1,2-dimethyl-3-phenyl-5-piperidinopyrazolium methyl sulfate as a viscous oil. The oil is redissolved in water and saturated aqueous potassium iodide solution is added. (Sodium iodide is also equally effective). An immediate copious white precipitate of 1,2-dimethyl-3-phenyl-5-piperidinopyrazolium iodide is formed, then filtered and washed with ice cold water to give 3.37 g, (56%) of product mp 179°C to 180°C. The melting point is unchanged by dissolving in chloroform, filtering and reprecipitating with diethyl ether and filtering off the solid. For analysis see Table I, compound 1.

reactant | Piperidine | 0.03 mole, 2.56 g | N1CCCCC1 | C5H11N
reactant | 1,2-dimethyl-3-chloro-5-phenylpyrazolium methyl sulfate | 0.015 mole, 4.77 g | COS(=O)(=O)[O-].C[N+]=1N(C(=CC1C1=CC=CC=C1)Cl)C
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1,2-dimethyl-3-phenyl-5-piperidinopyrazolium methyl sulfate | COS(=O)(=O)[O-].C[N+]=1N(C(=CC1N1CCCCC1)C1=CC=CC=C1)C | InChI=1S/C16H22N3.CH4O4S/c1-17-15(14-9-5-3-6-10-14)13-16(18(17)2)19-11-7-4-8-12-19;1-5-6(2,3)4/h3,5-6,9-10,13H,4,7-8,11-12H2,1-2H3;1H3,(H,2,3,4)/q+1;/p-1
